US05686486
1-(2-Hydroxyphenyl)propanol
A mixture of platinum oxide (302 mg) in methanol (30 mL) is stirred under a hydrogen atmosphere (balloon) for 1 hr and then treated with 2-hydroxypropiophenone (2.00 g). The mixture is stirred under hydrogen for 4 hrs, the catalyst is removed by filtration, and the filtrate is concentrated under reduced pressure to give an oily residue which is chromatographed on silica gel (230-400 mesh, 200 ), eluting with a gradient of ethyl acetate/hexane (5/95-20/80). Pooling of fractions with an Rf =0.41 by TLC (ethyl acetate/hexane, 25/75) and removal of solvent under reduced pressure gives the title compound.

reactant | 2-hydroxypropiophenone | 2.00 g | OC(C(=O)C1=CC=CC=C1)C | C9H10O2
reactant | methanol | 30 mL | CO | CH4O
catalyst | platinum oxide | 302 mg | [Pt]=O
product | 1-(2-Hydroxyphenyl)propanol | OC1=C(C=CC=C1)C(CC)O | C9H12O2
